* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02000006781256873
Fd1_1 0 s1 V1 1.0000033906284367
Gr1_1_1 0 s1 x1_a1 0 -295151856194.6052
Gr2_1_1 0 s1 x2_a1 0 -436060829.8254172
Gr3_re_1_1 0 s1 x3_re_a1 0 385238012.6793864
Gr3_im_1_1 0 s1 x3_im_a1 0 -943666567.3879876
Gr4_1_1 0 s1 x4_a1 0 24906.282185307522
Gr5_re_1_1 0 s1 x5_re_a1 0 -1.6982457039884438
Gr5_im_1_1 0 s1 x5_im_a1 0 0.6429425475520547
Gr6_1_1 0 s1 x6_a1 0 11972942009.244114
Gr7_re_1_1 0 s1 x7_re_a1 0 -0.30553294434526385
Gr7_im_1_1 0 s1 x7_im_a1 0 -0.1596311811549969
Gr8_re_1_1 0 s1 x8_re_a1 0 -0.3297670408701721
Gr8_im_1_1 0 s1 x8_im_a1 0 -0.11146191464389518
Gr9_re_1_1 0 s1 x9_re_a1 0 -0.0296895178294326
Gr9_im_1_1 0 s1 x9_im_a1 0 -0.016010642276246462
Gr10_re_1_1 0 s1 x10_re_a1 0 -0.06764159719874573
Gr10_im_1_1 0 s1 x10_im_a1 0 0.044890894816758044
Gr11_re_1_1 0 s1 x11_re_a1 0 -0.10912326704724258
Gr11_im_1_1 0 s1 x11_im_a1 0 0.06416322312561613
Gr12_re_1_1 0 s1 x12_re_a1 0 0.03307830150088752
Gr12_im_1_1 0 s1 x12_im_a1 0 -0.04800701953263792
Gr13_re_1_1 0 s1 x13_re_a1 0 -0.06321763864630732
Gr13_im_1_1 0 s1 x13_im_a1 0 -0.0006849304976576924
Gr14_re_1_1 0 s1 x14_re_a1 0 0.018297173688156594
Gr14_im_1_1 0 s1 x14_im_a1 0 -0.015781966593889956
Gd1_2 0 s1 p2 0 1.5355998849974723e-07
Fd1_2 0 s1 V2 7.677999424987362e-06
Gr1_1_2 0 s1 x1_a2 0 702740618.8834021
Gr2_1_2 0 s1 x2_a2 0 -8782389824.890518
Gr3_re_1_2 0 s1 x3_re_a2 0 -2157937506.545885
Gr3_im_1_2 0 s1 x3_im_a2 0 4018361335.4804225
Gr4_1_2 0 s1 x4_a2 0 -15879.27917690605
Gr5_re_1_2 0 s1 x5_re_a2 0 -0.43620875322922964
Gr5_im_1_2 0 s1 x5_im_a2 0 -0.7090259263452018
Gr6_1_2 0 s1 x6_a2 0 12393408689.458996
Gr7_re_1_2 0 s1 x7_re_a2 0 0.10016855386418137
Gr7_im_1_2 0 s1 x7_im_a2 0 -0.19419861819398745
Gr8_re_1_2 0 s1 x8_re_a2 0 0.02308076914142676
Gr8_im_1_2 0 s1 x8_im_a2 0 0.01081219834257583
Gr9_re_1_2 0 s1 x9_re_a2 0 0.030140152920668815
Gr9_im_1_2 0 s1 x9_im_a2 0 -0.008101566187097975
Gr10_re_1_2 0 s1 x10_re_a2 0 0.015025919476647703
Gr10_im_1_2 0 s1 x10_im_a2 0 0.012289770798423215
Gr11_re_1_2 0 s1 x11_re_a2 0 -0.059769489048871347
Gr11_im_1_2 0 s1 x11_im_a2 0 0.12340405862606302
Gr12_re_1_2 0 s1 x12_re_a2 0 0.3088192297886042
Gr12_im_1_2 0 s1 x12_im_a2 0 0.1044672063691512
Gr13_re_1_2 0 s1 x13_re_a2 0 -0.017286259208240888
Gr13_im_1_2 0 s1 x13_im_a2 0 0.02549718015990726
Gr14_re_1_2 0 s1 x14_re_a2 0 0.11056592646536538
Gr14_im_1_2 0 s1 x14_im_a2 0 -0.04685874451573365
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.08576490664488e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009688045832309e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.560118689360887e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834330108.30978
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834330108.30978
Rp3_im_im_a1 0 x3_im_a1 2.560118689360887e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1191188035646654e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.44399445840045e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 59493127583.91925
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -59493127583.91925
Rp5_im_im_a1 0 x5_im_a1 2.44399445840045e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 2.8990018225955347e-11
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 4.4431142141156165e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 51407671539.27139
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -51407671539.27139
Rp7_im_im_a1 0 x7_im_a1 4.4431142141156165e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 6.115568732523245e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 45456915995.826965
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -45456915995.826965
Rp8_im_im_a1 0 x8_im_a1 6.115568732523245e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 4.889586603347535e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 38344279230.15543
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -38344279230.15543
Rp9_im_im_a1 0 x9_im_a1 4.889586603347535e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 2.243434391410067e-09
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 31527539012.12242
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -31527539012.12242
Rp10_im_im_a1 0 x10_im_a1 2.243434391410067e-09
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 8.180826577594826e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 23428118480.679478
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -23428118480.679478
Rp11_im_im_a1 0 x11_im_a1 8.180826577594826e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 7.875863571128475e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 18615021271.10315
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -18615021271.10315
Rp12_im_im_a1 0 x12_im_a1 7.875863571128475e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 2.0982107457461967e-08
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 7171268374.728982
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -7171268374.728982
Rp13_im_im_a1 0 x13_im_a1 2.0982107457461967e-08
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.895631629031911e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 13022037294.991247
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -13022037294.991247
Rp14_im_im_a1 0 x14_im_a1 1.895631629031911e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 1.5355998849974723e-07
Fd2_1 0 s2 V1 7.677999424987362e-06
Gr1_2_1 0 s2 x1_a1 0 702740618.8834021
Gr2_2_1 0 s2 x2_a1 0 -8782389824.890518
Gr3_re_2_1 0 s2 x3_re_a1 0 -2157937506.545885
Gr3_im_2_1 0 s2 x3_im_a1 0 4018361335.4804225
Gr4_2_1 0 s2 x4_a1 0 -15879.27917690605
Gr5_re_2_1 0 s2 x5_re_a1 0 -0.43620875322922964
Gr5_im_2_1 0 s2 x5_im_a1 0 -0.7090259263452018
Gr6_2_1 0 s2 x6_a1 0 12393408689.458996
Gr7_re_2_1 0 s2 x7_re_a1 0 0.10016855386418137
Gr7_im_2_1 0 s2 x7_im_a1 0 -0.19419861819398745
Gr8_re_2_1 0 s2 x8_re_a1 0 0.02308076914142676
Gr8_im_2_1 0 s2 x8_im_a1 0 0.01081219834257583
Gr9_re_2_1 0 s2 x9_re_a1 0 0.030140152920668815
Gr9_im_2_1 0 s2 x9_im_a1 0 -0.008101566187097975
Gr10_re_2_1 0 s2 x10_re_a1 0 0.015025919476647703
Gr10_im_2_1 0 s2 x10_im_a1 0 0.012289770798423215
Gr11_re_2_1 0 s2 x11_re_a1 0 -0.059769489048871347
Gr11_im_2_1 0 s2 x11_im_a1 0 0.12340405862606302
Gr12_re_2_1 0 s2 x12_re_a1 0 0.3088192297886042
Gr12_im_2_1 0 s2 x12_im_a1 0 0.1044672063691512
Gr13_re_2_1 0 s2 x13_re_a1 0 -0.017286259208240888
Gr13_im_2_1 0 s2 x13_im_a1 0 0.02549718015990726
Gr14_re_2_1 0 s2 x14_re_a1 0 0.11056592646536538
Gr14_im_2_1 0 s2 x14_im_a1 0 -0.04685874451573365
Gd2_2 0 s2 p2 0 0.019999317897558374
Fd2_2 0 s2 V2 0.9999658948779186
Gr1_2_2 0 s2 x1_a2 0 11694605.619252086
Gr2_2_2 0 s2 x2_a2 0 -177235885374.4183
Gr3_re_2_2 0 s2 x3_re_a2 0 11491852187.250977
Gr3_im_2_2 0 s2 x3_im_a2 0 -16867713538.119482
Gr4_2_2 0 s2 x4_a2 0 96973.34114550726
Gr5_re_2_2 0 s2 x5_re_a2 0 0.6588094005897618
Gr5_im_2_2 0 s2 x5_im_a2 0 1.52841229392293
Gr6_2_2 0 s2 x6_a2 0 12828640536.272293
Gr7_re_2_2 0 s2 x7_re_a2 0 -0.16097759585411917
Gr7_im_2_2 0 s2 x7_im_a2 0 0.5456812893172642
Gr8_re_2_2 0 s2 x8_re_a2 0 -0.1949472051705777
Gr8_im_2_2 0 s2 x8_im_a2 0 -0.005325775496533602
Gr9_re_2_2 0 s2 x9_re_a2 0 0.011421977961178031
Gr9_im_2_2 0 s2 x9_im_a2 0 -0.03071538888666408
Gr10_re_2_2 0 s2 x10_re_a2 0 0.09702479136704505
Gr10_im_2_2 0 s2 x10_im_a2 0 -0.044456659523911354
Gr11_re_2_2 0 s2 x11_re_a2 0 0.11714404205235258
Gr11_im_2_2 0 s2 x11_im_a2 0 0.0642507380614322
Gr12_re_2_2 0 s2 x12_re_a2 0 0.03239287287472362
Gr12_im_2_2 0 s2 x12_im_a2 0 -0.01769652448059256
Gr13_re_2_2 0 s2 x13_re_a2 0 0.0203743135162544
Gr13_im_2_2 0 s2 x13_im_a2 0 -0.0018421931073926703
Gr14_re_2_2 0 s2 x14_re_a2 0 -0.014995632599155326
Gr14_im_2_2 0 s2 x14_im_a2 0 -0.008443799204542931
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.08576490664488e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009688045832309e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.560118689360887e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834330108.30978
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834330108.30978
Rp3_im_im_a2 0 x3_im_a2 2.560118689360887e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1191188035646654e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.44399445840045e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 59493127583.91925
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -59493127583.91925
Rp5_im_im_a2 0 x5_im_a2 2.44399445840045e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 2.8990018225955347e-11
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 4.4431142141156165e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 51407671539.27139
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -51407671539.27139
Rp7_im_im_a2 0 x7_im_a2 4.4431142141156165e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 6.115568732523245e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 45456915995.826965
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -45456915995.826965
Rp8_im_im_a2 0 x8_im_a2 6.115568732523245e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 4.889586603347535e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 38344279230.15543
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -38344279230.15543
Rp9_im_im_a2 0 x9_im_a2 4.889586603347535e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 2.243434391410067e-09
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 31527539012.12242
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -31527539012.12242
Rp10_im_im_a2 0 x10_im_a2 2.243434391410067e-09
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 8.180826577594826e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 23428118480.679478
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -23428118480.679478
Rp11_im_im_a2 0 x11_im_a2 8.180826577594826e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 7.875863571128475e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 18615021271.10315
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -18615021271.10315
Rp12_im_im_a2 0 x12_im_a2 7.875863571128475e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 2.0982107457461967e-08
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 7171268374.728982
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -7171268374.728982
Rp13_im_im_a2 0 x13_im_a2 2.0982107457461967e-08
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.895631629031911e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 13022037294.991247
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -13022037294.991247
Rp14_im_im_a2 0 x14_im_a2 1.895631629031911e-09
.ENDS s_equivalent
